US09024018B2
8-(Benzo[d]thiazol-2-yl)-3-(methylsulfinylmethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-061)
To a 0° C. solution of 8-(benzo[d]thiazol-2-yl)-3-(methylthiomethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (0.23 mmol, 75 mg, 1 eq.) in DMF (4.5 mL) was added slowly drop wise Oxone™ (0.25 mmol, 77 mg, 1.1 eq.) dissolved in water (0.75 mL). The formed suspension was stirred at 0° C. and stepwise additions of Oxone™ in water were made until reaction completion. The reaction mixture was filtered and the obtained solid washed with water, acetonitrile, ethyl acetate and ether, and dried under vacuum to give the title compound. Yield: 98%. δH (DMSO-d6) 9.07 (1H, s), 8.22 (1H, m), 8.16 (1H, m), 7.60 (1H, m), 7.52 (1H, m), 5.63 (1H, d, J=13.2), 5.50 (1H, d, J=13.2), 2.79 (3H, s).

reactant | 8-(benzo[d]thiazol-2-yl)-3-(methylthiomethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 0.23 mmol, 75 mg, 1 eq. | S1C(=NC2=C1C=CC=C2)C=2N=CN1C2N=NN(C1=O)CSC | C13H10N6OS2
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.75 mL | O | H2O
product | 8-(Benzo[d]thiazol-2-yl)-3-(methylsulfinylmethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | Yield: 98% | S1C(=NC2=C1C=CC=C2)C=2N=CN1C2N=NN(C1=O)CS(=O)C | C13H10N6O2S2
